US04102895
A suspension of sodium borohydride (69.8 mg.) in benzene (15 ml.) is treated with acetic acid (92 mg.) and refluxed for 1 hour under nitrogen to afford a clear solution of sodium triacetoxyborohydride. To this solution is added a solution of 2S,3R,6R-6-(2-oxoethyl)-2-methyl-2-(4,8-dimethyl-5-oxo-7-nonenyl)-3,6-oxidooxepane (158 mg.) in benzene (5 ml.) and the mixture refluxed for 5 hours under nitrogen. The solvent is removed in vacuo, the residue diluted with water and extracted with methylene chloride. Removal of the solvent from the dried organic phase affords a residue which is plate chromatographed on silica gel, using ethyl acetate:chloroform (4:1) as the developing solvent. The major band is eluted with ethyl acetate to afford 2S,3R-6-(2-hydroxyethyl)-2-methyl-2-(4,8-dimethyl-5-oxo-7-nonenyl)-3,6-oxidooxepane (121 mg.):

reactant | sodium borohydride | 69.8 mg | [BH4-].[Na+]
reactant | acetic acid | 92 mg | C(C)(=O)O | C2H4O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+] | InChI=1S/C6H10BO6.Na/c1-4(8)11-7(12-5(2)9)13-6(3)10;/h7H,1-3H3;/q-1;+1
